US07411093B2
trans-2-(1,1-Dioxo-[1,2]thiazinan-2-yl)-cyclohexylamine
Sodium hydride (60% dispersion in mineral oil, 15 mg, 0.38 mmol) was added at 0° C. to a solution of trans-[2-(4-chloro-butane-1-sulfonylamino)-cyclohexyl]-carbamic acid tert-butyl ester (125 mg, 0.34 mmol) and sodium iodide (51 mg, 0.34 mmol), and the reaction mixture was stirred at room temperature for 24 h, then another portion of sodium hydride (15 mg, 0.38 mmol) was added, and the reaction mixture was heated at 60° C. for 3 h. After cooling, the solution was partitioned between heptane/ethyl acetate (1:1) and water. The organic layer was washed with brine, evaporated, and chromatographed (SiO2, heptane-ethyl acetate gradient). The title compound was obtained from this material in accordance with the general method of example 27b. Off-white solid, MS (ISP) 233.1 (M+H)+.

reactant | Sodium hydride | 0.38 mmol, 15 mg | [H-].[Na+]
reactant | trans-[2-(4-chloro-butane-1-sulfonylamino)-cyclohexyl]-carbamic acid tert-butyl ester | 0.34 mmol, 125 mg | C(C)(C)(C)OC(N[C@H]1[C@@H](CCCC1)NS(=O)(=O)CCCCCl)=O | C15H29ClN2O4S
reactant | sodium iodide | 0.34 mmol, 51 mg | [I-].[Na+]
reactant | sodium hydride | 0.38 mmol, 15 mg | [H-].[Na+]
product | trans-2-(1,1-Dioxo-[1,2]thiazinan-2-yl)-cyclohexylamine | O=S1(N(CCCC1)[C@H]1[C@@H](CCCC1)N)=O | C10H20N2O2S
